US07208145B2
A solution of ethyl pyruvate diethyl ketal (16.0 g, 0.084 moles) in ethyl ether (60 mL) was added dropwise during 30 min to a stirred solution of lithium aluminum hydride (1.90 g, 0.050 moles) in ethyl ether (150 mL). Next the mixture was stirred 1 h at room temperature under nitrogen atmosphere. Saturated solution of sodium sulfate (20 mL) was added and the mixture was stirred 15 min. Next the mixture was filtered, dried with anhydrous magnesium sulfate, and the solvent was distilled off. The residue was subjected to fractional vacuum distillation giving 9.5 g of pure 2,2-diethoxypropan-1-ol. NMR (d6-DMSO): 1.17 ppm (t, —CH3, ethyl (ketal), 6H), 1.31 ppm (s, —CH3—C—CH2OH, 3H), 3.37 ppm (q, —OCH2CH3, (ketal), 4H), 3.86 ppm (d, —CH2OH, 2H), 4.45 ppm (t, —OH, 1H).

reactant | ethyl pyruvate diethyl ketal | 0.084 moles, 16.0 g | C(C)OC(C(=O)OCC)(C)OCC | C9H18O4
reactant | lithium aluminum hydride | 0.050 moles, 1.90 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | 20 mL | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 150 mL | C(C)OCC | C4H10O
product | 2,2-diethoxypropan-1-ol | 9.5 g | C(C)OC(CO)(C)OCC | C7H16O3
